US09085527B2
To a solution of methyl 5-amino-2-hydroxybenzoate (1.5 g, 9.0 mmol) in dichloromethane (50 mL) was added BOC-glycine (1.57 g, 9.0 mmol), EDCI (1.89 g, 9.9 mmol) and dimethylaminopyridine (0.11 g, 0.9 mmol). The reaction was stirred (RT, 2.5 h), and then partitioned between CH2Cl2 and brine. The aqueous layer was extracted with CH2Cl2 and the combined organic layers were washed with brine and dried over MgSO4. The crude product was purified by silica gel chromatography (0-5% MeOH/CH2Cl2) to afford methyl 5-(2-(tert-butoxycarbonylamino)-acetamido)-2-hydroxybenzoate (1.37 g). Mass calculated for C15H20N2O6=324.33; found: [M+Na]+=347.2.

reactant | methyl 5-amino-2-hydroxybenzoate | 9.0 mmol, 1.5 g | NC=1C=CC(=C(C(=O)OC)C1)O | C8H9NO3
reactant | BOC-glycine | 9.0 mmol, 1.57 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | EDCI | 9.9 mmol, 1.89 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 0.9 mmol, 0.11 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl 5-(2-(tert-butoxycarbonylamino)-acetamido)-2-hydroxybenzoate | 1.37 g | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=CC(=C(C(=O)OC)C1)O | C15H20N2O6
